US04006245
A suspension of 1.0 parts of 4-Oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carbonitrile in 50 parts of dioxane and 50 parts of 38% v /v sulphuric acid was heated on a steam can for eighteen hours. The solid obtained on cooling was collected, washed with water and crystallised from acetone to give 0.09 parts of 4-oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carboxylic acid, m.pt. 161°-163°.

reactant | 4-Oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carbonitrile | O=C1C=C(OC2=C1C=CC(=C2)OCCCOC2=C(C=CC=C2)CCC)C#N | C22H21NO4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 4-oxo-7-(3-[2-propylphenoxy]propoxy)-4H-1-benzopyran-2-carboxylic acid | O=C1C=C(OC2=C1C=CC(=C2)OCCCOC2=C(C=CC=C2)CCC)C(=O)O | C22H22O6
